* Day 048 front-end demo - battery charger sense using TLV3691
.param FHP=0.50 FLP=220
Bsig VIN 0 V=1m*sin(2*pi*1.2,time) + 0.5m*sin(2*pi*50,time)

* Power rails
VCC VCC 0 DC 5.0
Cdec VCC 0 10u

* Mid-rail reference
Rref1 VCC VREF 100k
Rref2 VREF 0 100k
Cref VREF 0 10u

* Input coupling
C1 VIN NIN 1u
Rbias NIN VREF 318310

* Non-inverting preamp (~50x)
* Replace E1 with vendor model for TLV3691
E1 OUT 0 NIN NNEG 1e5
Rfb OUT NNEG 49000
Rin NNEG VREF 1000

* Output filter around mid-rail
Rlp OUT VOUT 10000
Clp VOUT VREF 7.234e-08

Cout VOUT ADC_IN 1u
Radc ADC_IN 0 100k

.ac dec 100 0.1 100k
.tran 0 2

.control
run
.endc
.end
